US03974207
47 g isobutyric acid were esterified with excess n-butanol under conditions as in Example I and 67 g butyl isobutyrate were obtained. Butyl isobutyrate was oxidized with oxygen under conditions as in Example I.

reactant | isobutyric acid | 47 g | C(C(C)C)(=O)O | C4H8O2
reactant | n-butanol | C(CCC)O | C4H10O
product | butyl isobutyrate | 67 g | C(C(C)C)(=O)OCCCC | C8H16O2
